US05347000
Preparation of N-potassium phthalimide
In a 1-liter three-neck round bottom flask, phthalimide (50 g) was suspended in ethyl alcohol (500 ml) and cooled to about 0° C. under stirring. A solution of alcoholic KOH (19 gm in 150 ml alcohol) was added slowly over a period of 15-20 mins., while keeping the mass temperature at 0°-5° C. After the addition was complete, the reaction mixture was stirred for 1/2 hour at 0°-5° C. and then filtered.

reactant | phthalimide | 50 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | KOH | 150 ml, 19 gm | [OH-].[K+]
solvent | ethyl alcohol | 500 ml | C(C)O | C2H6O
product | N-potassium phthalimide | C1=CC=C2C(=C1)C(=O)[N-]C2=O.[K+] | InChI=1S/C8H5NO2.K/c10-7-5-3-1-2-4-6(5)8(11)9-7;/h1-4H,(H,9,10,11);/q;+1/p-1
